US05801183
N-(Benzoylacetyl)-4,5-dichloro-2-nitroaniline (123)
A mixture of 4,5-dichloro-2-nitroaniline (2.07 g, 10 mmol) and ethyl benzoylacetate (technical, 5 mL, approximately 22 mmol) was heated at 180° C. for 16 h under stirring. It was cooled to 150° C. and kept at this temperature under aspirator vacuum for 5 h, then cooled to room temperature. Chloroform (50 mL) was added and the mixture was evaporated, then diluted with ether (200 mL) and cooled to -10° C. Precipitate was filtered and washed with ether (5×50 mL) to give 2.12 g (60%) of the title compound as an orange solid: mp 177°-179° C. (from EtOH); IR (KBr) 3330, 1693, 1670, 1561, 1472, 1340, 1233, and 764 cm-1 ; 1H NMR (DMSO-d6) δ4.24 (s, 2H), 7.53 (m, 2H), 7.65 (m, 1H), 7.77 (d, 1H, J=7.6 Hz), 7.97 (d, 1H, J=7.6 Hz), 8.11 (s, 1H), 8.23 (s, 1H), 10.70 (s, 1H, N--H). HRMS Calcd for C15H10N2O4Cl2 : 352.0018. Found: 352.0020.

reactant | 4,5-dichloro-2-nitroaniline | 10 mmol, 2.07 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | ethyl benzoylacetate | approximately 22 mmol, 5 mL | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
solvent | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(Benzoylacetyl)-4,5-dichloro-2-nitroaniline | 2.12 g, 60% | C(C1=CC=CC=C1)(=O)CC(=O)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C15H10Cl2N2O4
